US06028096
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-propanoylpyrazole
To a stirred solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (7.2 g) in tetrahydrofuran (80 ml) at -78° C. under an atmosphere of nitrogen was added, at such a rate that the temperature of the reaction mixture did not exceed -71° C., n-butyllithium (8 ml of a 2.5M solution in hexanes). A solution of methyl propionate (3.2 ml) in tetrahydrofuran (10 ml) was then added at such a rate that the temperature of the reaction mixture did not exceed -72° C. Upon completion of the addition the mixture was stirred at -72° C. and then allowed to warm to room temperature over a period of 1.5 hours. After stirring overnight at room temperature water (100 ml) was added and the mixture extracted twice with ethyl acetate (200 ml). The combined organic layers were dried (Na2SO4) and evaporated to give a brown gum which was purified by column chromatography on silica gel (500 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave a brown solid which was further purified by column chromatography on silica gel (60 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a pale yellow solid, m.p. 143° C.

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 7.2 g | C(#N)C1=NN(C=C1I)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C11H3Cl2F3IN3
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl propionate | 3.2 ml | C(CC)(=O)OC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-propanoylpyrazole | C(#N)C1=NN(C=C1C(CC)=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H8Cl2F3N3O
